US07307094B2
A mixture of 6-chloro-2-(thiophen-3-yl)benzo[d]oxazole-4-carboxylic acid (70 mg, 0.25 mmol), (S)-(−)-3-aminoquinuclidine dihydrochloride (50 mg, 0.25 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (96 mg, 0.50 mmol) and 1-hydroxybenzotriazole (68 mg, 0.50 mmol) in DMF (2 mL) was stirred at room temperature for 5 min, then triethylamine (0.13 mL, 1.0 mmol) was added. The resulting reaction mixture was stirred at room temperature for 12 h. The mixture was diluted with dichloromethane (20 mL), then washed with a saturated solution of sodium bicarbonate (10 mL). The aqueous layer was further extracted with dichloromethane (3×20 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 89:10:1 dichloromethane/methanol/concentrated ammonium hydroxide) followed by recrystallization from acetonitrile to afford (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-6-chloro-2-thiophen-3-ylbenzoxazole-4-carboxamide (17 mg, 18%) as a colorless crystal: 1H NMR (500 MHz, CDCl3) δ 9.41 (d, J=7.5 Hz, 1H), 8.23 (dd, J=3.0, 1.5 Hz, 1H), 8.16 (d, J=2.0 Hz, 1H), 7.73 (dd, J=5.0, 1.0 Hz, 1H), 7.68 (d, J=2.0 Hz, 1H), 7.52 (dd, J=5.0, 3.0 Hz, 1H), 4.29-4.25 (m, 1H), 3.49 (ddd, J=11.5, 9.5, 2.0 Hz, 1H), 3.10-2.83 (m, 4H), 2.77 (dd, J=14.0, 4.5 Hz, 1H), 2.15-2.11 (m, 1H), 2.04-1.98 (m, 1H), 1.78-1.70 (m, 2H), 1.60-1.51 (m, 1H); MS (ESI+) m/z 388 (M+H); HPLC>99% (AUC), tR=12.45 min.

reactant | 6-chloro-2-(thiophen-3-yl)benzo[d]oxazole-4-carboxylic acid | 0.25 mmol, 70 mg | ClC=1C=C2C(N=C(O2)C2=CSC=C2)=C(C1)C(=O)O | C12H6ClNO3S
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | 0.25 mmol, 50 mg | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.50 mmol, 96 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.50 mmol, 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.0 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-6-chloro-2-thiophen-3-ylbenzoxazole-4-carboxamide | 17 mg, 18% | N12C[C@H](C(CC1)CC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CSC=C1)Cl | C19H18ClN3O2S
